US07482345B2
2-(2,4-difluorophenoxy)-5-{2-[(1E)-prop-1-en-1-yl]phenyl}-6H-pyrido[1,2-b]pyridazin-6-one
The title compound was prepared from 5-(2-bromophenyl)-2-(2,4-difluorophenoxy)-6H-pyrido[1,2-b]pyridazin-6-one as described in Example-7 using tri-N-butyl(1-propenyl)tin in place of tri-N-butyl (vinyl)tin. 50/50 mixture of cis and trans.

reactant | 5-(2-bromophenyl)-2-(2,4-difluorophenoxy)-6H-pyrido[1,2-b]pyridazin-6-one | BrC1=C(C=CC=C1)C=1C(C=CN2N=C(C=CC21)OC2=C(C=C(C=C2)F)F)=O | C20H11BrF2N2O2
reactant | tri-N-butyl(1-propenyl)tin | CCCC[Sn](CCCC)(CCCC)/C=C/C
product | 2-(2,4-difluorophenoxy)-5-{2-[(1E)-prop-1-en-1-yl]phenyl}-6H-pyrido[1,2-b]pyridazin-6-one | FC1=C(OC=2C=CC=3N(N2)C=CC(C3C3=C(C=CC=C3)\C=C\C)=O)C=CC(=C1)F | C23H16F2N2O2
